US07071175B1
(f) 4-(3-Acetylsulfanyl-2-ethoxycarbonyl-1-methyl-propyl)-piperidine-1-carboxylic acid tert-butyl ester
TEA (86 μL, 0.617 mmol) was added to a solution of 4-(2ethoxycarbonyl-1-methyl-allyl)-piperidine-1-carboxylic acid tert-butyl ester (0.18 g, 0.59 mmol) in thioacetic acid (2 mL) at 0° C. After stirring for 6 h more thioacetic acid (2 mL) was added and the mixture was stirred at 45° C. over night. EtOAc was added and the mixture was washed with water, saturated NaHCO3 and brine, dried and concentrated under reduced pressure. The crude was purified by flash chromatography (toluene/EtOAc, 5:1→1:1) to slightly unpure 4-(3-acetylsulfanyl-2-ethoxycarbonyl-1-methyl-propyl)-piperidine-1-carboxylic acid tert-butyl ester (0.17 g, 75%).

reactant | 4-(2ethoxycarbonyl-1-methyl-allyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.59 mmol, 0.18 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C(=C)C(=O)OCC)C | C17H29NO4
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | thioacetic acid | 2 mL | C(C)(=S)O | C2H4OS
reactant | thioacetic acid | 2 mL | C(C)(=S)O | C2H4OS
product | 4-(3-Acetylsulfanyl-2-ethoxycarbonyl-1-methyl-propyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C(CSC(C)=O)C(=O)OCC)C | C19H33NO5S
